US07098212B2
1-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-2-(1H-tetrazol-5-yl)-ethanone
To a mixture of sodium azide (0.061 g, 0.95 mmol) and aluminum trichloride (0.042 g, 0.31 mmol) was added 3-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-3-oxo-propionitrile (0.035 g, 0.076 mmol) in tetrahydrofuran (2 mL). The reaction was warmed to 70° C. and stirred for 18 hours. To this was added saturated aqueous sodium bicarbonate (0.5 mL) and dimethylsulfoxide (0.5 mL) and the solution was stirred for 1 hour at ambient temperature. The solids were removed by filtration and the filtrate was concentrated in vacuo. The crude product was purified by reverse phase HPLC to give the title compound which was converted to its hydrochloride salt (0.020 g, LRMS: 501.2).

reactant | sodium azide | 0.95 mmol, 0.061 g | [N-]=[N+]=[N-].[Na+]
reactant | aluminum trichloride | 0.31 mmol, 0.042 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 3-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-3-oxo-propionitrile | 0.076 mmol, 0.035 g | ClC=1C=CC(=C(C1)C(CC#N)=O)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C24H25ClFN3O3
reactant | sodium bicarbonate | 0.5 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | dimethylsulfoxide | 0.5 mL | CS(=O)C | C2H6OS
product | 1-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-2-(1H-tetrazol-5-yl)-ethanone | ClC=1C=CC(=C(C1)C(CC1=NN=NN1)=O)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C24H26ClFN6O3
